US07750002B2
To a suspension of lithium aluminium hydride (0.75 g) in THF (30 mL) was added a solution of 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (3.2 g) in THF (20 mL) at 0° C. The reaction mixture was subsequently warmed to room temperature. After stirring for 2.5 h, ammonium chloride solution (5 mL) was added to the reaction mixture, which was then filtered through celite, washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to yield 3-hydroxymethyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester (1.13 g). Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, which was isolated as the hydrochloride salt.

reactant | lithium aluminium hydride | 0.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 3.2 g | COC(=O)C1CN(CCN1S(=O)(=O)C)C(=O)OC(C)(C)C | C12H22N2O6S
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-hydroxymethyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester | 1.13 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C)CO | C11H22N2O5S
